US04256898
A 7.48 g. (17.6 mM) quantity of (αS,5S) 2-[(benzyloxy)carbonyl]-3-oxo-α-phthalimido-5-isoxazolidine acetic acid is dissolved in 150 ml. of ethyl acetate and 75 ml. of 95% ethanol. The solution is treated with 1.5 g. of palladium black and hydrogenated at 25° C. and 1 atmosphere of pressure. The reaction is stopped after 165 minutes, filtered, and the filtrate is evaporated in vacuo to yield 3-oxo-α-phthalimido-5-isoxazolidine acetic acid as a residue.

reactant | (αS,5S) 2-[(benzyloxy)carbonyl]-3-oxo-α-phthalimido-5-isoxazolidine acetic acid | C(C1=CC=CC=C1)OC(=O)N1O[C@@H](CC1=O)[C@@H](C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium black | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-oxo-α-phthalimido-5-isoxazolidine acetic acid | O=C1NOC(C1)C(C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C13H10N2O6
